US06939883B2
Step 5A 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-4-pyridone:
DIBAL (5.3 mmol, 5.3 mL of a 1.0 M solution in hexanes) was added dropwise via syringe to a stirred solution of 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone (1.40 g, 3.5 mmol) in THF/DCM (60 mL/20 mL), at −78° C. under N2. A suspension was formed at the end of the addition. After 1 hour, an additional aliquot of DIBAL (3.0 mmol, 3.0 mL of a 1.0 M solution in hexanes) was added. The reaction was deemed complete after 1 hour at −78° C. MeOH (5 mL) was carefully added to quench any unreacted DIBAL and the mixture was partitioned between EtOAc and 1 M HCl. The organic layer was separated and washed with brine, dried over anhydrous MgSO4 and filtered. Upon removal of the solvents in vacuum, the crude solid residue was triturated with Et2O. The product was obtained as a beige solid (0.80 g, 2.25 mmol, 64%). 1H NMR (CDCl3, 300 MHz): 10.55 (s, 1H), 7.40-7.33 (m, 1H), 7.00-6.93 (m, 2H), 5.38 (s, 2H), 2.78 (s, 3H), 2.69 (s, 3H); LRMS m/z 356.0 (M+−1), 358.0 (M++1).

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | 1-(2,6-difluorobenzyl)-2,6-dimethyl-3-bromo-5-ethoxycarbonyl-4-pyridone | 3.5 mmol, 1.40 g | FC1=C(CN2C(=C(C(C(=C2C)C(=O)OCC)=O)Br)C)C(=CC=C1)F | C17H16BrF2NO3
reactant | MeOH | 5 mL | CO | CH4O
solvent | THF DCM | 60 mL | C1CCOC1.C(Cl)Cl
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-4-pyridone | 2.25 mmol, 0.80 g, 64% | FC1=C(CN2C(=C(C(C(=C2C)C=O)=O)Br)C)C(=CC=C1)F | C15H12BrF2NO2
